US04138492
2-methoxy-4-amino-5-chloro benzoic acid
25.75 grs (0.1 mol) methyl 2-methoxy-4-acetamido-5-chlorobenzoate were introduced into a 500 ml flask, suspended in 100 ml ethanol. 40 grs NaOH, dissolved in 150 cc of water, were added and the mixture was heated under reflux for 2.5 hours. The mixture was diluted with water and made acid with concentrated HCl. The white solid which precipitated was collected and recrystallized from methanol. Weight: 17 grs m.p. = 213°-215° C. Yield = 84%.

reactant | methyl 2-methoxy-4-acetamido-5-chlorobenzoate | 0.1 mol | COC1=C(C(=O)OC)C=C(C(=C1)NC(C)=O)Cl | C11H12ClNO4
reactant | NaOH | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | 150 cc | O | H2O
product | 2-methoxy-4-amino-5-chloro benzoic acid | Yield = 84% | COC1=C(C(=O)O)C=C(C(=C1)N)Cl | C8H8ClNO3
